US04500526
B. 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-dimethylamino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate (Iu)
A mixture of diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIa] (466 mg, 0.5 mmole) and 2-dimethylaminothiazolo[4,5-c]pyridine (90 mg, 0.5 mmole) in dry DMSO (1 ml) was stirred at room temperature for 40 minutes, and diluted with a mixture of ether (20 ml) and ethyl acetate (50 ml). The precipitate was collected by filtration to obtain 517 mg of the crude quaternary salt. The salt was mixed with 0.3 ml of anisole and was treated with 95% TFA under ice cooling. The solution was stirred for an hour at room temperature and evaporated. The residue was triturated with iso-propyl ether and the resulting precipitate was collected by filtration to give 367 mg of the crude title compound as a yellow powder. The crude product was purified by chromatography (HP-20 column 90 ml), eluted with water (200 ml), 30% CH3OH (240 ml), and 50% CH3OH (450 ml). The desired fractions were combined, concentrated and lyophilized to give 90 mg of yellow powder, which was further purified by column chromatography by using the packing of PrepPAK/C18 cartridge (50 ml). The column was eluted with water (100 ml) and 30% CH3OH (200 ml). The desired fractions were concentrated and lyophilized to obtain 40 mg of Iu as pale yellow powder (14% yield). Mp. 119°~123° C. (dec.). Estimated purity by HPLC: 65%.

reactant | diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.5 mmole, 466 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38IN5O5S2
reactant | 2-dimethylaminothiazolo[4,5-c]pyridine | 0.5 mmole, 90 mg | CN(C=1SC2=C(C=NC=C2)N1)C | C8H9N3S
reactant | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-dimethylamino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate | 90 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)N(C)C)C(=O)[O-])C1=O)=N/OC | C22H22N8O5S3
